Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-2.72252617007
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:8]([H:9])[C:10][H:11].[H:7]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-4.024625944059999
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7]>>[C:1]#[C:2][O:3][C:4]#[C:6][H:7].[H:5],2.58332064311
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])[H:7])=[C:9]\[C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:10]([H:11])([H:12])[H:13],-4.36619730682
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[H:1]/[C:2](=[C:3]\[O:4][C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.07018850836
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.4619424131
[H:5].[O:1][O:2][C:3][H:4]>>[O:1][O:2][C:3]([H:4])[H:5],-5.09751707809
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]=[C:9]([H:10])[H:11],-0.669718460688
[C:1].[C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C:2]#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.38088074618
[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.05245412888
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],4.0232238873
[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-8.10019977022
[H:1][C:2]#[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([O:5])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.65791233481
[H:1][C:2]([H:3])=[C:12](/[C:10](=[C:8](/[C:6](=[C:4][H:5])[H:7])[H:9])[H:11])[H:13]>>[H:1][C:2]([H:3])[C:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]([H:11])=[C:12]1[H:13],-1.08396388983
[C:1]#[C:2][C:4](=[C:5]=[O:6])[O:7][H:8].[H:3]>>[C:1]=[C:2]([H:3])[C:4](=[C:5]=[O:6])[O:7][H:8],-2.69926780942
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:3]#[C:4][H:5].[H:1][C:2][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],6.4915693051600005
[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[O:1]=[C:2][H:3],3.3891085393
[H:1][C:2](=[C:3]([H:4])[H:5])[C:14]([C:11]([C:8]([C:6][H:7])([H:9])[H:10])([H:12])[H:13])([H:15])[H:16]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-2.05841474945
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-10.67833688
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-1.3720073683399998
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])=[C:7][O:8][C:9]1([H:10])[H:11]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]=[O:8])[C:9]([H:10])[H:11],-0.59882076722
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.98399779847
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:4],3.812280790930002
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[O:4],1.68179137
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7].[O:8]=[C:9][C:10]([H:11])([H:12])[H:13],-1.97449469164
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.84225466789
[C:4]([H:5])([H:6])=[C:7][O:8][C:9]([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],-1.91280191234
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],1.34367996218
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-7.016844337569999
[H:1][C:2]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.45829333438
